US05036075
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (7.02 g), triethylamine (10.5 cc) and 4-(2-hydroxyphenyl)piperazine dihydrobromide (8.5 g) in dimethylformamide (150 cc). The mixture is heated for 6 hours at boiling point, then cooled to a temperature of about 20° C. Stirring is maintained for 15 hours at this temperature. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with a mixture of dichloromethane and ethyl acetate (50-50 vol) as eluant, and recrystallization from acetonitrile (25 cc), 2-{3-[4-(2-hydroxyphenyl)-1-piperazinyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (5.8 g) is obtained, m.p. 128° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 7.02 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 10.5 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(2-hydroxyphenyl)piperazine dihydrobromide | 8.5 g | Br.Br.OC1=C(C=CC=C1)N1CCNCC1
solvent | dimethylformamide | 150 cc | CN(C=O)C | C3H7NO
product | 2-{3-[4-(2-hydroxyphenyl)-1-piperazinyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 5.8 g | OC1=C(C=CC=C1)N1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H25N3O3S
